US07238808B2
4-[7-Difluoromethyl-5-(3-ethoxy-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide
The title compound was prepared from 7-difluoromethyl-5-(3-ethoxy-phenyl)-3-ethynyl-pyrazolo[1,5-a]pyrimidine (example C.19) (313 g, 1.0 mmol) and commercially available 4-bromobenzenesulfonamide (230 mg, 1.0 mmol) according to general procedure II. Obtained as a yellow solid (190 mg, 41%). MS (ISN) 467.1 [(M−H)−]; mp 245° C.

reactant | 7-difluoromethyl-5-(3-ethoxy-phenyl)-3-ethynyl-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 313 g | FC(C1=CC(=NC=2N1N=CC2C#C)C2=CC(=CC=C2)OCC)F | C17H13F2N3O
reactant | 4-bromobenzenesulfonamide | 1.0 mmol, 230 mg | BrC1=CC=C(C=C1)S(=O)(=O)N | C6H6BrNO2S
product | 4-[7-Difluoromethyl-5-(3-ethoxy-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide | FC(C1=CC(=NC=2N1N=CC2C#CC2=CC=C(C=C2)S(=O)(=O)N)C2=CC(=CC=C2)OCC)F | C23H18F2N4O3S
